US04613208
A suspension of 0.426 g of 1-amino-6-methyl-5-nitro-2-anthraquinonecarboxylic acid p-heptylphenyl ester, 50 ml of toluene, 50 ml of ethanol and 0.10 g of palladium/barium carbonate catalyst poisoned with 2 wt.% lead was hydrogenated at room temperature until the hydrogen uptake came to a standstill. The mixture was filtered. The filtrate was concentrated in vacuo and the residue was purified by chromatography on silica gel with methylene chloride as the eluent. Recrystallization from methylene chloride/hexane, yielded 0.334 of 1,5-diamino-6-methyl-2-anthraquinonecarboxylic acid p-heptylphenyl ester as violet crystals; m.p. (C-N) 163.7°-165.7° C., cl.p. (N-I) 190.9°-191.4° C., nematic; E277 =15280, E524 =14700.

reactant | 1-amino-6-methyl-5-nitro-2-anthraquinonecarboxylic acid p-heptylphenyl ester | 0.426 g | C(CCCCCC)C1=CC=C(C=C1)OC(=O)C1=C(C=2C(C3=CC=C(C(=C3C(C2C=C1)=O)[N+](=O)[O-])C)=O)N | C29H28N2O6
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrogen | [H][H] | H2
catalyst | palladium/barium carbonate | 0.10 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1,5-diamino-6-methyl-2-anthraquinonecarboxylic acid p-heptylphenyl ester | C(CCCCCC)C1=CC=C(C=C1)OC(=O)C1=C(C=2C(C3=CC=C(C(=C3C(C2C=C1)=O)N)C)=O)N | C29H30N2O4
